US20010047026A1
8-Chloro-5,10-dihydro-indeno[1,2-b]indole-1-carboxylic acid
In a manner similar to Example 17, 1-oxo-indan-4-carboxylic acid (1.00 g, 5.68 mmol) and 4-chlorophenylhydrazine hydrochloride (1.03 g, 5.75 mmol) were converted to the title compound (0.230 g, 14%) as a pale brown solid: mp>300° C.; 1H NMR (DMSO-d6,): δ 4.00 (s, 2H), 7.10 (d of d, 1H), 7.46 (d, 1H), 7.51 ( d, 1H), 7.66 (d, 1H), 7.78-7.81 (m, 2H), 11.83 (s, 1H), 13.57 (s, 1H); MS [EI, m/z]: 283 [M]+.

reactant | 1-oxo-indan-4-carboxylic acid | 5.68 mmol, 1.00 g | O=C1CCC=2C(=CC=CC12)C(=O)O | C10H8O3
reactant | 4-chlorophenylhydrazine hydrochloride | 5.75 mmol, 1.03 g | Cl.ClC1=CC=C(C=C1)NN
product | 8-Chloro-5,10-dihydro-indeno[1,2-b]indole-1-carboxylic acid | 0.230 g, 14% | ClC1=CC=2C3=C(NC2C=C1)C=1C=CC=C(C1C3)C(=O)O | C16H10ClNO2
